US07777047B2
ethyl 5-[3-(methylsulfonyl)propoxy]-7-[(pyridin-2-ylsulfonyl)amino]-1H-indole-2-carboxylate
To a mixture of ethyl 7-amino-5-[3-(methylsulfonyl)propoxy]-1H-indole-2-carboxylate (4.8 g) and pyridine (50 mL) was added pyridine-2-sulfonyl chloride (3.0 g) at 0° C., and the mixture was stirred at 0° C. for 1 hr. The reaction mixture was concentrated, aqueous citric acid solution was added to the residue, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed successively with water and saturated brine, dried (MgSO4), and concentrated. The obtained crystals were washed with diisopropyl ether, and recrystallized from acetone-hexane to give the title compound (4.68 g, yield 69%) as pale-brown prism crystals. melting point 194-195° C.

reactant | ethyl 7-amino-5-[3-(methylsulfonyl)propoxy]-1H-indole-2-carboxylate | 4.8 g | NC=1C=C(C=C2C=C(NC12)C(=O)OCC)OCCCS(=O)(=O)C | C15H20N2O5S
reactant | pyridine-2-sulfonyl chloride | 3.0 g | N1=C(C=CC=C1)S(=O)(=O)Cl | C5H4ClNO2S
solvent | pyridine | 50 mL | N1=CC=CC=C1 | C5H5N
product | ethyl 5-[3-(methylsulfonyl)propoxy]-7-[(pyridin-2-ylsulfonyl)amino]-1H-indole-2-carboxylate | 4.68 g, yield 69% | CS(=O)(=O)CCCOC=1C=C2C=C(NC2=C(C1)NS(=O)(=O)C1=NC=CC=C1)C(=O)OCC | C20H23N3O7S2
